US05853713
2-(4-(Phenylmethoxy)phenyl)ethylamlne. Lithium aluminum hydride (8.48 g, 223 mmol) was suspended in dry diethyl ether (600 mL). 1-(2-Nitroethenyl)-4-(phenylmethoxy)benzene (13.9 g, 55 mmol) was extracted into this mixture using a Soxhlet apparatus. The mixture was boiled under reflux for 16 h. Water (7.38 mL) was added, followed by aqueous sodium hydroxide (20%; 5.53 mL) and water (27.8 mL). The suspension was filtered. The solvent was evaporated from the filtrate under reduced pressure to give 2-(4-(phenylmethoxy)phenyl)ethylamine (11.25 g, 91%).

reactant | Lithium aluminum hydride | 223 mmol, 8.48 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(2-Nitroethenyl)-4-(phenylmethoxy)benzene | 55 mmol, 13.9 g | [N+](=O)([O-])C=CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H13NO3
reactant | Water | 7.38 mL | O | H2O
reactant | sodium hydroxide | 5.53 mL | [OH-].[Na+]
reactant | water | 27.8 mL | O | H2O
solvent | diethyl ether | 600 mL | C(C)OCC | C4H10O
product | 2-(4-(phenylmethoxy)phenyl)ethylamine | 11.25 g, 91% | C1(=CC=CC=C1)COC1=CC=C(C=C1)CCN | C15H17NO
